US06465507B2
3-[2-Oxo-3-(4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrol-1-ylmethylene)-2,3-dihydro-1H-indol-5-yl]-benzoic Acid
3-(2-Oxo-2,3-dihydro-1H-indol-5-yl)-benzoic acid was condensed with 4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrole-1-carbaldehyde to give the title compound.

reactant | 3-(2-Oxo-2,3-dihydro-1H-indol-5-yl)-benzoic acid | O=C1NC2=CC=C(C=C2C1)C=1C=C(C(=O)O)C=CC1 | C15H11NO3
reactant | 4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrole-1-carbaldehyde | O=C1OCCC=2C1=CNC2C=O | C8H7NO3
product | 3-[2-Oxo-3-(4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrol-1-ylmethylene)-2,3-dihydro-1H-indol-5-yl]-benzoic Acid | O=C1NC2=CC=C(C=C2C1=CC1=C2C(=CN1)C(OCC2)=O)C=2C=C(C(=O)O)C=CC2 | C23H16N2O5
